* DIODES INCORPORATED AND ITS AFFILIATED COMPANIES AND SUBSIDIARIES (COLLECTIVELY, "DIODES") 

*---------- DMP22D5UDR4 Spice Model ------------
.SUBCKT DMP22D5UDR4_P 10 20 30 
* TERMINALS : D  G  S
* MODLE FORMAT : SPICE3
M1 1 2 3 3 PMOS L = 1E-006 W = 1E-006 
RD 10 1 0.75 
RS 30 3 0.001 
RG 20 2 3.36 
CGS 2 3 1.61E-011 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1 VFB 1 
CGD 13 14 4.44E-011 
R1 13 30 1 
D1 13 12 DLIM 
DDG 14 15 DCGD 
R2 12 15 1 
D2 30 15 DLIM 
DSD 10 3 DSUB 
.MODEL PMOS PMOS LEVEL = 3 U0 = 200 VMAX = 1E+005 ETA = 0 VTO = -0.67 
+ TOX = 1E-007 NSUB = 1E+015 KP = 1.03 KAPPA = 0.2 IS = 0 
.MODEL DCGD D CJO = 1.813E-012 VJ = 0.8 M = 0.35 
.MODEL DSUB D IS = 1E-008 N = 1.329 RS = 1.273 BV = 29.92 
+ CJO = 8.821E-012 VJ = 0.6499 M = 0.3 
.MODEL DLIM D IS = 0.0001
.ENDS DMP22D5UDR4_P
* Diodes Spice Model v1.0J Last Revised 2020/01/31


*---------- DMP21D5UFB4 Spice Model ------------
.SUBCKT DMP21D5UFB4 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3  PMOS  L = 1E-006  W = 1E-006 
RD 10 1 0.4041 
RS 30 3 0.001 
RG 20 2 14.3 
CGS 2 3 4.178E-011 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1  VFB 1 
CGD 13 14 5.7E-011 
R1 13 30 1 
D1 13 12  DLIM 
DDG 14 15  DCGD 
R2 12 15 1 
D2 30 15  DLIM 
DSD 10 3  DSUB 
.MODEL PMOS PMOS  LEVEL = 3  U0 = 400  VMAX = 1E+006  ETA = 0.001 
+ TOX = 6E-008  NSUB = 1E+016  KP = 1.095  KAPPA = 49.86  VTO = -0.8823 
.MODEL DCGD D  CJO = 1.311E-011  VJ = 0.2302  M = 0.2576 
.MODEL DSUB D  IS = 3E-009  N = 1.688  RS = 0.5  BV = 25  CJO = 6.498E-012  VJ = 0.3007  M = 0.2934 
.MODEL DLIM D  IS = 0.0001 
.ENDS
* Diodes DMP21D5UFB4 Spice Model v1.0 Last Revised 2011/10/27


*---------- DMP32D8UFZ Spice Model -------------
.SUBCKT DMP32D8UFZ 10 20 30 
* TERMINALS : D G S
* MODEL FORMAT : SPICE3
M1 1 2 3 3 PMOS L = 1E-006 W = 1E-006 
RD 10 1 1.5 
RS 30 3 0.001 
RG 20 2 363.8 
CGS 2 3 2.077E-011 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1 VFB 1 
CGD 13 14 2.01E-011 
R1 13 30 1 
D1 13 12 DLIM 
DDG 14 15 DCGD 
R2 12 15 1 
D2 30 15 DLIM 
DSD 10 3 DSUB 
.MODEL PMOS PMOS LEVEL = 3 U0 = 400 VMAX = 1E+006 ETA = 0.001 
+ TOX = 6E-008 NSUB = 1E+016 KP = 0.5699 KAPPA = 19.32 VTO = -0.739 
.MODEL DCGD D CJO = 9.411E-012 VJ = 0.8 M = 0.6 
.MODEL DSUB D IS = 4.047E-007 N = 2.719 RS = 0.2187 BV = 39.12 
+ CJO = 3.631E-012 VJ = 0.8 M = 0.6 
.MODEL DLIM D IS = 0.0001 
.ENDS
* Diodes Spice Model v1.0J Last Revised 2021/12/20


*---------- DMP32D9UFO Spice Model -------------
.SUBCKT DMP32D9UFO 10 20 30 
* TERMINALS : D G S
* MODEL FORMAT : SPICE3
M1 1 2 3 3 PMOS L = 1E-006 W = 1E-006 
RD 10 1 1.5 
RS 30 3 0.001 
RG 20 2 363.8 
CGS 2 3 2.077E-011 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1 VFB 1 
CGD 13 14 2.01E-011 
R1 13 30 1 
D1 13 12 DLIM 
DDG 14 15 DCGD 
R2 12 15 1 
D2 30 15 DLIM 
DSD 10 3 DSUB 
.MODEL PMOS PMOS LEVEL = 3 U0 = 400 VMAX = 1E+006 ETA = 0.001 
+ TOX = 6E-008 NSUB = 1E+016 KP = 0.5699 KAPPA = 19.32 VTO = -0.739 
.MODEL DCGD D CJO = 9.411E-012 VJ = 0.8 M = 0.6 
.MODEL DSUB D IS = 4.047E-007 N = 2.719 RS = 0.2187 BV = 39.12 
+ CJO = 3.631E-012 VJ = 0.8 M = 0.6 
.MODEL DLIM D IS = 0.0001 
.ENDS
* Diodes Spice Model v1.0J Last Revised 2018/12/20


*---------- DMP22D4UFA Spice Model -------------
.SUBCKT DMP22D4UFA 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3 PMOS L = 1E-006 W = 1E-006 
RD 10 1 0.6562 
RS 30 3 0.001 
RG 20 2 400 
CGS 2 3 2.653E-011 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1 VFB 1 
CGD 13 14 5.8E-011 
R1 13 30 1 
D1 13 12 DLIM 
DDG 14 15 DCGD 
R2 12 15 1 
D2 30 15 DLIM 
DSD 10 3 DSUB 
.MODEL PMOS PMOS LEVEL = 3 U0 = 400 VMAX = 1E+006 ETA = 0.001 
+ TOX = 6E-008 NSUB = 1E+016 KP = 0.6965 KAPPA = 32.11 VTO = -0.6305 
.MODEL DCGD D CJO = 1.549E-011 VJ = 0.1652 M = 0.3749 
.MODEL DSUB D IS = 3.478E-007 N = 2.097 RS = 3.705 
+ BV = 25 CJO = 3.247E-012 VJ = 1.719E-014 M = 0.02141 
.MODEL DLIM D IS = 0.0001 
.ENDS
* Diodes DMP22D4UFA Spice Model v1.0 Last Revised 2012/11/30


*---------- DMP22D4UFO Spice Model ----------
.SUBCKT DMP22D4UFO 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3 PMOS L = 1E-006 W = 1E-006 
RD 10 1 0.6562 
RS 30 3 0.001 
RG 20 2 400 
CGS 2 3 2.653E-011 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1 VFB 1 
CGD 13 14 5.8E-011 
R1 13 30 1 
D1 13 12 DLIM 
DDG 14 15 DCGD 
R2 12 15 1 
D2 30 15 DLIM 
DSD 10 3 DSUB 
.MODEL PMOS PMOS LEVEL = 3 U0 = 400 VMAX = 1E+006 ETA = 0.001 
+ TOX = 6E-008 NSUB = 1E+016 KP = 0.6965 KAPPA = 32.11 VTO = -0.6305 
.MODEL DCGD D CJO = 1.549E-011 VJ = 0.1652 M = 0.3749 
.MODEL DSUB D IS = 3.478E-007 N = 2.097 RS = 3.705 BV = 25 CJO = 3.247E-012 VJ = 1.719E-014 M = 0.02141 
.MODEL DLIM D IS = 0.0001 
.ENDS
* Diodes DMP22D4UFO Spice Model v1.0 Last Revised 2012/11/30


*---------- DMP21D1UT Spice Model --------------
.SUBCKT DMP21D1UT 10 20 30 
* TERMINALS : D  G  S
* MODLE FORMAT : SPICE3
* Editor : B
M1 1 2 3 3  PMOS  L = 1E-006  W = 1E-006 
RD 10 1 0.28 
RS 30 3 0.001 
RG 20 2 2.26 
CGS 2 3 3.12E-011 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1  VFB 1 
CGD 13 14 2.75E-010 
R1 13 30 1 
D1 13 12  DLIM 
DDG 14 15  DCGD 
R2 12 15 1 
D2 30 15  DLIM 
DSD 10 3  DSUB 
.MODEL PMOS PMOS  LEVEL = 3  U0 = 400  VMAX = 1E+005  ETA = 0  VTO = -0.66 
+ TOX = 1E-007  NSUB = 1E+014  KP = 2.2  KAPPA = 0.2  IS = 0 
.MODEL DCGD D  CJO = 1.52E-011  VJ = 0.5  M = 0.58 
.MODEL DSUB D  IS = 1.5E-009  N = 1.38  RS = 0.1248  BV = 25.16 
+ CJO = 3.83E-011  VJ = 0.6  M = 0.5507  XTI = 0 
.MODEL DLIM D  IS = 0.0001 
.ENDS
* Diodes Spice Model v1.1 Last Revised 2021/05/26

**  Rectifiers  ________________________________________________________________

* SRC=ABS10A;DI_ABS10A;Diodes;Si;	1000V 1.0A 3.00us Diodes Inc. Bridge -- for one element
.MODEL DI_ABS10A D  ( IS=3.47n RS=42.6m BV=1000 IBV=5.00u CJO=25.2p  M=0.333 N=1.70 TT=4.32u )

* SRC=DF04M;DI_DF04M;Diodes;Si;	400V 1.00A 3.00us Diodes Inc. Bridge -- for one element 
.MODEL DI_DF04M D  ( IS=4.42n RS=42.0m BV=400 IBV=10.0u CJO=65.0p  M=0.333 N=1.70 TT=4.32u )

* SRC=DF04S;DI_DF04S;Diodes;Si;	400V 1.00A 3.00us Diodes Inc. Bridge -- for one element 
.MODEL DI_DF04S D  ( IS=4.42n RS=42.0m BV=400 IBV=10.0u CJO=65.0p  M=0.333 N=1.70 TT=4.32u )

* SRC=DF06M;DI_DF06M;Diodes;Si;	600V 1.00A 3.00us Diodes Inc. Bridge -- for one element 
.MODEL DI_DF06M D  ( IS=4.42n RS=42.0m BV=600 IBV=10.0u CJO=65.0p  M=0.333 N=1.70 TT=4.32u )

* SRC=DF06S;DI_DF06S;Diodes;Si;	600V 1.00A 3.00us Diodes Inc. Bridge -- for one element 
.MODEL DI_DF06S D  ( IS=4.42n RS=42.0m BV=600 IBV=10.0u CJO=65.0p  M=0.333 N=1.70 TT=4.32u )

* SRC=DF08M;DI_DF08M;Diodes;Si;	800V 1.00A 3.00us Diodes Inc. Bridge -- for one element 
.MODEL DI_DF08M D  ( IS=4.42n RS=42.0m BV=800 IBV=10.0u CJO=65.0p  M=0.333 N=1.70 TT=4.32u )

* SRC=DF08S;DI_DF08S;Diodes;Si;	800V 1.00A 3.00us Diodes Inc. Bridge -- for one element 
.MODEL DI_DF08S D  ( IS=4.42n RS=42.0m BV=800 IBV=10.0u CJO=65.0p  M=0.333 N=1.70 TT=4.32u )

* SRC=DF10M;DI_DF10M;Diodes;Si;	1.00kV 1.00A 3.00us Diodes Inc. Bridge -- for one element 
.MODEL DI_DF10M D  ( IS=4.42n RS=42.0m BV=1.00k IBV=10.0u CJO=65.0p  M=0.333 N=1.70 TT=4.32u )

* SRC=DF10S;DI_DF10S;Diodes;Si;	1.00kV 1.00A 3.00us Diodes Inc. Bridge -- for one element 
.MODEL DI_DF10S D  ( IS=4.42n RS=42.0m BV=1.00k IBV=10.0u CJO=65.0p  M=0.333 N=1.70 TT=4.32u )

* SRC=DF1504S;DI_DF1504S;Diodes;Si;	400V 1.50A 3.00us Diodes Inc. Bridge -- for one element
.MODEL DI_DF1504S D  ( IS=2.06n RS=28.1m BV=400 IBV=10.0u CJO=65.0p  M=0.333 N=1.70 TT=4.32u )

* SRC=DF1506S;DI_DF1506S;Diodes;Si;	600V 1.50A 3.00us Diodes Inc. Bridge -- for one element
.MODEL DI_DF1506S D  ( IS=2.06n RS=28.1m BV=600 IBV=10.0u CJO=65.0p  M=0.333 N=1.70 TT=4.32u )

* SRC=DF1508S;DI_DF1508S;Diodes;Si;	800V 1.50A 3.00us Diodes Inc. Bridge -- for one element
.MODEL DI_DF1508S D  ( IS=2.06n RS=28.1m BV=800 IBV=10.0u CJO=65.0p  M=0.333 N=1.70 TT=4.32u )

* SRC=DF1510S;DI_DF1510S;Diodes;Si;	1.00kV 1.50A 3.00us Diodes Inc. Bridge -- for one element
.MODEL DI_DF1510S D  ( IS=2.06n RS=28.1m BV=1.00k IBV=10.0u CJO=65.0p  M=0.333 N=1.70 TT=4.32u )














